US06166015
Proceeding as described above but substituting 3-(RS)-aminomethyl-1-(3,4-methylenedioxybenzyl)pyrrolidine with 3-aminomethyl-1-(3,4-dichlorobenzyl)-pyrrolidine and 3-methylphenylisocyanate with 1-(naphth-1-yl)ethylisocyanate gave 1-[1-(3,4-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-3-[1-(naphth-1-yl)ethyl]urea.

reactant | 3-aminomethyl-1-(3,4-dichlorobenzyl)-pyrrolidine | NCC1CN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C12H16Cl2N2
reactant | 3-methylphenylisocyanate | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | 1-(naphth-1-yl)ethylisocyanate | C1(=CC=CC2=CC=CC=C12)C(C)N=C=O | C13H11NO
product | 1-[1-(3,4-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-3-[1-(naphth-1-yl)ethyl]urea | ClC=1C=C(CN2CC(CC2)CNC(=O)NC(C)C2=CC=CC3=CC=CC=C23)C=CC1Cl | C25H27Cl2N3O
